US09370522B2
A solution of 2,3-bis(4-ethylphenyl)quinoxaline-6-carboxylic acid (150 mg, 0.39 mmol, 1.00 equiv) in thionyl chloride (20 mL) was heated under reflux for 3 h in a oil bath. The resulting solution was concentrated under vacuum and diluted with 20 ml of CH2Cl2. The resulting solution was added to a solution of O-methyl-hydroxylamine hydrochloride (326 mg, 3.93 mmol, 10.00 equiv) and NEt3 (396 mg, 3.92 mmol, 10.00 equiv) in CH2Cl2 (20 mL) at 0° C. and stirred overnight at room temperature. The reaction mixture was concentrated under vacuum, and the crude product (100 mg) was purified by Prep-HPLC yielding 15 mg (7%) of 2,3-bis(4-ethylphenyl)-N-methoxyquinoxaline-6-carboxamide as a white solid.

reactant | 2,3-bis(4-ethylphenyl)quinoxaline-6-carboxylic acid | 0.39 mmol, 150 mg, 1.00 equiv | C(C)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)CC)C(=O)O | C25H22N2O2
reactant | O-methyl-hydroxylamine hydrochloride | 3.93 mmol, 326 mg, 10.00 equiv | Cl.CON
reactant | NEt3 | 3.92 mmol, 396 mg, 10.00 equiv | CCN(CC)CC | C6H15N
solvent | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2,3-bis(4-ethylphenyl)-N-methoxyquinoxaline-6-carboxamide | 15 mg, 7% | C(C)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)CC)C(=O)NOC | C26H25N3O2
